US04894084
A mixture of 9.0 g (0.035 mole) of 1-(4-amino-2-fluorophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one in 25 mL of 48% hydrobromide acid was stirred and 70 mL of acetone was added. The reaction mixture was cooled to 8° C. and a solution of 2.5 g (0.036 mole) of sodium nitrite in 7 mL of water was added below the surface of the reaction mixture. The reaction mixture temperature was kept below 15° C. during the addition. Upon completion of addition 25.0 g (0.30 mole) of methyl acrylate was added. The reaction mixture was then cooled to 0°-5° C. and 0.15 g of cuprous bromide was added slowly. Upon completion of addition the reaction mixture was allowed to warm to ambient temperature where it was stirred for 1 hour. After this time the reaction mixture was diluted with water and was extracted with diethyl ether. The ether extract was dried with magnesium sulfate and filtered. The filtrate was passed through a pad of silica gel and concentrated under reduced pressure to yield 11.3 g of methyl 3-[3-fluoro-4(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenyl]-2-bromopropionate as an oil. The nmr spectrum was consistent with the proposed structure.

reactant | 1-(4-amino-2-fluorophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.035 mole, 9.0 g | NC1=CC(=C(C=C1)N1N=C(N(C1=O)C(F)F)C)F | C10H9F3N4O
reactant | acetone | 70 mL | CC(=O)C | C3H6O
reactant | sodium nitrite | 0.036 mole, 2.5 g | N(=O)[O-].[Na+]
reactant | methyl acrylate | 0.30 mole, 25.0 g | C(C=C)(=O)OC | C4H6O2
reactant | hydrobromide | 25 mL | Br | BrH
solvent | water | 7 mL | O | H2O
product | methyl 3-[3-fluoro-4(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenyl]-2-bromopropionate | 11.3 g | FC=1C=C(C=CC1N1N=C(N(C1=O)C(F)F)C)CC(C(=O)OC)Br | C14H13BrF3N3O3
